US06013663
N-[5-(1,2-Dithiolan-3-yl)pentyl]propionamide (Compound No. 1-1963)
2 ml of methanol and 2 ml of butylamine were added to a solution of 1.6 mmol of 2-[5(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione in 3 ml of toluene. The resulting mixture was stirred at room temperature for 6 hours. The reaction mixture was then allowed to stand overnight at room temperature. At the end of this time, the solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the residue, after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. 5 ml of pyridine were then added to the residue. 0.31 ml of propionic anhydride was added dropwise to the resulting mixture, and then the mixture was stirred at room temperature for 2 hours and 30 minutes. The solvent was removed from the reaction mixture by distillation under reduced pressure. Water was added to the residue after which it was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. The residue was thereafter subjected to silica gel column chromatography, using 2:1, 3:1 and 1:0 by volume mixtures of ethyl acetate and hexane as eluent, followed by reverse phase preparative silica gel column chromatography, using 1:4, 3:7, 2:3 and 1:1 by volume mixtures of acetonitrile and water as eluent. Acetonitrile was removed from the eluate so obtained by distillation under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. Ethyl acetate was removed from the extract by distillation under reduced pressure. The residue was dissolved in dioxane, after which it was lyophilised, to give 125 mg of the title compound as a yellow oil having an Rf value of 0.45 (silica gel thin layer chromatography; using ethyl acetate as the developing solvent).

reactant | methanol | 2 ml | CO | CH4O
reactant | butylamine | 2 ml | C(CCC)N | C4H11N
reactant | 2-[5(1,2-dithiolan-3-yl)pentyl]isoindole-1,3-dione | 1.6 mmol | S1SC(CC1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C16H19NO2S2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-(1,2-Dithiolan-3-yl)pentyl]propionamide | 125 mg | S1SC(CC1)CCCCCNC(CC)=O | C11H21NOS2
